US04771046
p-Nitrobenzyl(1RS,5S,6S)-2-phenylsulfinyl-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate
19 ml of saturated aqueous sodium bicarbonate solution and a solution of 350 mg of 3-chloroperbenzoic acid in 10 ml of methylene chloride were added to a solution of 360 mg of p-nitrobenzyl(1RS,5S,6S)-2-phenylthio-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate in 19 ml of methylene chloride, kept at 0° to 5° C. with ice-water cooling, and the mixture was stirred for 35 minutes at the same temperature. The reaction mixture was then diluted with methylene chloride and washed with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off. The residue was purified by chromatography on a column of silica gel, using a 1/8 mixture of benzene and ethyl acetate as eluent, giving 200 mg of the title compound.

reactant | sodium bicarbonate | 19 ml | C([O-])(O)=O.[Na+]
reactant | 3-chloroperbenzoic acid | 350 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | p-nitrobenzyl(1RS,5S,6S)-2-phenylthio-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 360 mg | C1(=CC=CC=C1)SC=1C([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C23H22N2O6S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 19 ml | C(Cl)Cl | CH2Cl2
product | p-Nitrobenzyl(1RS,5S,6S)-2-phenylsulfinyl-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 200 mg | C1(=CC=CC=C1)S(=O)C=1C([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C23H22N2O7S
